US06423704B1
Treat a stirred solution of 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan (1.50 g, 4.74 mmol, Preparation 9), tetrahydrofuran (45 mL) and dimethylformamide (5 mL) at 0° C. with sodium hydride (0.228 g, 5.69 mmol, 60% oil dispersion) under an argon atmosphere. Stir at room temperatue for 30 minutes, cool to 0° C. and treat with 1-iodo-4,4,4-trifluorobutane (1.35 g, 5.69 mmol, Lancaster Synthesis). Allow to warm slowly to room temperature and stir overnight at room temperature. Cool to 5° C., quench by addition of ice and saturated ammonium chloride solution (5 mL) and concentrate in vacuo to remove the tetrahydrofuran. Dissolve the residue in ethyl acetate (150 mL), wash the organic phase with water (3×40 mL), dry (Na2SO4), filter and concentrate to afford a yellow oil. Purify by flash chromatography (silica gel, 7×40 cm) eluting with 60% ethyl acetate in hexane. Concentrate the appropriate fractions in vacuo and dry the residue (1.2 Torr, 50° C., 2 hours) to afford 1.93 g of 4-[1-(4,4,4-trifluoro-butyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester as an oil, Rf=0.40 (silica gel, ethyl acetate).

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan | 4.74 mmol, 1.50 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 5.69 mmol, 0.228 g | [H-].[Na+]
reactant | 1-iodo-4,4,4-trifluorobutane | 5.69 mmol, 1.35 g | ICCCC(F)(F)F | C4H6F3I
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[1-(4,4,4-trifluoro-butyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.93 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCC(F)(F)F)C=CC=C2 | C21H29F3N4O2
